US07371772B2
To a solution of 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid (350 mg) in tetrahydrofuran (10 ml) was added a drop of DMF. Then, after adding thionyl chloride (0.073 ml), the mixture was stirred under nitrogen atmosphere for 1 hour. The solution was slowly added dropwise to a solution of 3-methyl-4-[((1-propylimidazol-5-yl)methyl)sulfanyl]aniline (223 mg) in pyridine (10 ml) at 0° C. under nitrogen atmosphere. After stirring the mixture at room temperature under nitrogen atmosphere overnight, water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1→ethyl acetate) to give 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfanyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide (444 mg) as a yellow amorphous material (Compound 38).

reactant | 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid | 350 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)O)C1 | C28H37NO4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.073 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methyl-4-[((1-propylimidazol-5-yl)methyl)sulfanyl]aniline | 223 mg | CC=1C=C(N)C=CC1SCC1=CN=CN1CCC | C14H19N3S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfanyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide | 444 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)NC2=CC(=C(C=C2)SCC2=CN=CN2CCC)C)C1 | C42H54N4O3S
